US09212187B2
Synthesis of 6-{5-[cyclohexylmethyl-(2-pyridin-3-ylethyl)amino]pentyloxy}-1-methyl-1H-quinolin-2-one dihydrochloride
Triethylamine(0.15 ml) was added to a 1,2-dichloroethane solution (2.5 ml) of 1-methyl-6-[5-(2-pyridin-3-ylethylamino)pentyloxy]-1H-quinolin-2-one dihydrochloride(219 mg). The mixture was stirred at room temperature for 30 minutes. Cyclohexane carboxaldehyde(0.073 ml) and sodium triacetoxyborohydrate(159 mg) were added thereto, and the mixture was stirred at room temperature overnight. A saturated sodium hydrogencarbonate aqueous solution was added to the reaction mixture, followed by extraction using dichloromethane. The organic layer was dried with anhydrous sodium sulfate, and condensed under reduced pressure. The residue was purified by NH silica gel column chromatography (hexane: ethyl acetate=1:1). The purified product was condensed under reduced pressure. A 1N-hydrogen chloride ethanol solution(1.0 ml) was added to an ethanol solution(20 ml) of the residue, which was stirred at room temperature. The reaction mixture was condensed under reduced pressure and ethyl acetate was added to the residue. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(100 mg) as a pale yellow powder.

reactant | 1-methyl-6-[5-(2-pyridin-3-ylethylamino)pentyloxy]-1H-quinolin-2-one dihydrochloride | 219 mg | Cl.Cl.CN1C(C=CC2=CC(=CC=C12)OCCCCCNCCC=1C=NC=CC1)=O
reactant | Cyclohexane carboxaldehyde | 0.073 ml | C1(CCCCC1)C=O | C7H12O
reactant | sodium | [Na] | Na
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride ethanol | 1.0 ml | C(C)O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | 1,2-dichloroethane | 2.5 ml | ClCCCl | C2H4Cl2
solvent | Triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
product | 6-{5-[cyclohexylmethyl-(2-pyridin-3-ylethyl)amino]pentyloxy}-1-methyl-1H-quinolin-2-one dihydrochloride | 100 mg | Cl.Cl.C1(CCCCC1)CN(CCCCCOC=1C=C2C=CC(N(C2=CC1)C)=O)CCC=1C=NC=CC1 | InChI=1S/C29H39N3O2.2ClH/c1-31-28-14-13-27(21-26(28)12-15-29(31)33)34-20-7-3-6-18-32(23-25-9-4-2-5-10-25)19-16-24-11-8-17-30-22-24;;/h8,11-15,17,21-22,25H,2-7,9-10,16,18-20,23H2,1H3;2*1H
